US07947727B2
N-Ethyl-2-fluoro-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]-6-(trifluoromethyl)benzamide
Prepared similarly to Example 48 from 2-fluoro-6-(trifluoromethyl)benzoyl chloride and 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol.

reactant | 2-fluoro-6-(trifluoromethyl)benzoyl chloride | FC1=C(C(=O)Cl)C(=CC=C1)C(F)(F)F | C8H3ClF4O
reactant | 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol | FC(C(CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F)(O)CNCCC)(F)F | C20H22F4N4O
product | N-Ethyl-2-fluoro-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]-6-(trifluoromethyl)benzamide | C(C)N(C(C1=C(C=CC=C1C(F)(F)F)F)=O)CC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F | C27H22F8N4O2
